US08877780B2
A stirred mixture of 5-methylsulfanyl-pyridine-2-carboxylic acid (0.34 g, 2.00 mmol) and CDI (0.34 g, 2.10 mmol) in N,N-dimethylformamide (15 mL) was heated to 40° C. under nitrogen. After 2 h, 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione methane sulfonate (0.77 g, 2.00 mmol) was added and the mixture was heated at 40° C. for 2 h. The mixture was cooled to rt and EtOAc (75 mL) was added. The organic layer was washed with sat. aq. NaHCO3 (3×75 mL) then concentrated in vacuo. The crude residue was purified by column chromatography (EtOAc/hexanes, gradient, product eluted at 90% EtOAc). The product fractions were combined and concentrated to give 5-methylsulfanyl-pyridine-2-carboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide as a white solid (0.55 g, 63% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 50/50 CH3CN/0.1% H3PO4, 2.89 min (98.58%); mp: 185-187° C.; 1H NMR (DMSO-d6) δ 1.83-2.18 (m, 1H), 2.52-2.68 (m, 5H), 2.78-3.02 (m, 1H), 4.64 (d, J=6.4 Hz, 2H), 5.14 (dd, J=5.4, 12.9 Hz, 1H), 7.76-7.91 (m, 4H), 7.92-8.00 (m, 1H), 8.53 (d, J=1.9 Hz, 1H), 9.52 (t, J=6.3 Hz, 1H), 11.11 (s, 1H); 13C NMR (DMSO-d6) δ 13.93, 21.99, 30.93, 42.36, 48.99, 122.08, 123.51, 129.78, 131.56, 133.56, 133.83, 139.66, 145.03, 145.90, 147.57, 164.11, 166.99, 167.13, 169.80, 172.72; LCMS: MH=439; Anal Calcd for C21H18N4O5S: C, 57.53; H, 4.14; N, 12.78. Found: C, 57.17; H, 4.04; N, 12.54.

reactant | 5-methylsulfanyl-pyridine-2-carboxylic acid | 2.00 mmol, 0.34 g | CSC=1C=CC(=NC1)C(=O)O | C7H7NO2S
reactant | CDI | 2.10 mmol, 0.34 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione methane sulfonate | 2.00 mmol, 0.77 g | CS(=O)(=O)O.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O
reactant | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 5-methylsulfanyl-pyridine-2-carboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide | 0.55 g, 63% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1=O)CNC(=O)C1=NC=C(C=C1)SC)=O)=O | C21H18N4O5S
